US06596687B1
4-(2-Hydroxyphenylureido)phenylacetic acid was prepared using procedure C with 2-hydroxyaniline and KCl: 1H NMR (CD3SOCD3, 300 MHz, ppm) 9.90 (s, 1H), 9.25 (s, 1H), 8.12 (s, 1H), 8.02 (bd, 1H), 7.37 (d, 2H), 7.13 (d, 2H), 6.70-6.97 (m, 3H), 3.48 (s, 2H).

reactant | 2-hydroxyaniline | OC1=C(N)C=CC=C1 | C6H7NO
reactant | Methyl 4-Isocyanatophenylacetate | N(=C=O)C1=CC=C(C=C1)CC(=O)OC | C10H9NO3
product | 4-(2-Hydroxyphenylureido)phenylacetic acid | OC1=C(C=CC=C1)NC(NC1=CC=C(C=C1)CC(=O)O)=O | C15H14N2O4
